US04432993
N-[2-(4-Methoxyphenyl)-1-methylethyl]-2-(2-benzofuranyl)-1-hydroxyethanamine
This compound was prepared in an identical manner to the compound described in Example 2 using 2-(2-benzofuranyl)-2-hydroxyethanamine (1.65 g) and 1-(4-methoxyphenyl)propan-2-one (1.53 g). Chromatography of the residual oil on Kieselgel 60 (4% methanol in dichloromethane) gave the title compound, m.p. 75°-85° (Et2O-hexane) as a 44:56 mixture of diastereoisomers.

reactant | 2-(2-benzofuranyl)-2-hydroxyethanamine | 1.65 g | O1C(=CC2=C1C=CC=C2)C(CN)O | C10H11NO2
reactant | 1-(4-methoxyphenyl)propan-2-one | 1.53 g | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
reactant | methanol | CO | CH4O
reactant | Et2O hexane | CCOCC.CCCCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(4-Methoxyphenyl)-1-methylethyl]-2-(2-benzofuranyl)-1-hydroxyethanamine | COC1=CC=C(C=C1)CC(C)NC(CC=1OC2=C(C1)C=CC=C2)O | C20H23NO3
